US04530714
A. N-Benzyl-N-methylthiophosphoramidic Dichloride
A solution of N-benzyl-N-methylamine (2.81 g, 0.32 mol) in 47 mL of ether was added dropwise with stirring to 78.6 g (0.47 mol) of thiophosphoryl chloride in 375 mL of ether at 0° C. under an argon atmosphere. After the addition was complete, the resultant slurry was stirred for 30 min at 0° C., and then for 1 h at 25° C. The amine hydrochloride was removed by filtration and the solvent was concentrated at reduced pressure to provide 28.5 g (92.5%) of a red colored oil.

reactant | N-benzyl-N-methylamine | 0.32 mol, 2.81 g | C(C1=CC=CC=C1)NC | C8H11N
reactant | thiophosphoryl chloride | 0.47 mol, 78.6 g | P(=S)(Cl)(Cl)Cl | Cl3PS
solvent | ether | 47 mL | CCOCC | C4H10O
solvent | ether | 375 mL | CCOCC | C4H10O
product | N-Benzyl-N-methylthiophosphoramidic Dichloride | 28.5 g, 92.5% | C(C1=CC=CC=C1)N(P(=S)(Cl)Cl)C | C8H10Cl2NPS
